US05561145
3-p-methoxyphenyl-5(S)-[(4-p-methoxyphenylthiopiperidino)methyl]-2-oxazolidinone (hydrochloride; m.p. 225°-225°):
3-p-methoxyphenyl-5(S)-[(4-p-methoxyphenylsulfonylpiperidino)methyl]-2-oxazolidinone (hydrochloride), m.p. 254°-256°; [αD =-31.6° (DMSO);

reactant | 3-p-methoxyphenyl-5(S)-[(4-p-methoxyphenylsulfonylpiperidino)methyl]-2-oxazolidinone | COC1=CC=C(C=C1)N1C(O[C@H](C1)CN1CCC(CC1)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C23H28N2O6S
solvent | DMSO | CS(=O)C | C2H6OS
product | 3-p-methoxyphenyl-5(S)-[(4-p-methoxyphenylthiopiperidino)methyl]-2-oxazolidinone | COC1=CC=C(C=C1)N1C(O[C@H](C1)CN1CCC(CC1)SC1=CC=C(C=C1)OC)=O | C23H28N2O4S
